US05556864
7(a) 4-t-Butoxycarbonyl-2-[2-(4-phenylbutyl)phenoxymethyl]morpholine
218 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) were added, whilst ice-cooling and stirring, to a solution of 1.13 g of 2-(4-phenylbutyl)phenol (prepared as described in Preparation 3) in 20 ml of dimethylacetamide, and the resulting mixture was stirred at room temperature for 30 minutes. At the end of this time, 2.04 g of 4-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)morpholine were added, and the reaction mixture was stirred at 60° C. for 6 hours. The mixture was then partitioned between ethyl acetate and water. The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The oily residue thus obtained was purified by column chromatography through silica gel, using a 20:1 by volume mixture of benzene and acetonitrile as the eluent, to give 671 mg of the title compound as an oil.

reactant | sodium hydride | 218 mg | [H-].[Na+]
reactant | 2-(4-phenylbutyl)phenol | 1.13 g | C1(=CC=CC=C1)CCCCC1=C(C=CC=C1)O | C16H18O
reactant | 4-t-butoxycarbonyl-2-(p-toluenesulfonyloxymethyl)morpholine | 2.04 g | C(C)(C)(C)OC(=O)N1CC(OCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO6S
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
product | 4-t-Butoxycarbonyl-2-[2-(4-phenylbutyl)phenoxymethyl]morpholine | 671 mg | C(C)(C)(C)OC(=O)N1CC(OCC1)COC1=C(C=CC=C1)CCCCC1=CC=CC=C1 | C26H35NO4
